US08748418B2
Ethyl 2-(5-chloro-2-iodopyridin-3-yloxy)acetate (16.5 g, 48.3 mmol) was carbonylated with 20 bar carbon monoxide in the presence of bis(diphenylphosphino)ferrocene-palladium(II)dichloride dichloromethane adduct (1.66 g, 2.03 mmol) in a mixture of ethanol, ethyl acetate and triethylamine at 70° C. for 20 h. The crude reaction mixture was extracted with ethyl acetate and water, the organic layer was dried over sodium sulfate. Removal of the solvent in vacuum left a dark brown oil, which was purified by silica gel column chromatography with n-heptane/ethyl acetate to give the ethyl 5-chloro-3-(2-ethoxy-2-oxoethoxy)picolinate (12.5 g, 43.4 mmol, 89.9% yield) as a light red solid. MS (ISP): m/z=287.9 [(M+H)+] and 290.1 [(M+2+H)+].

reactant | Ethyl 2-(5-chloro-2-iodopyridin-3-yloxy)acetate | 48.3 mmol, 16.5 g | ClC=1C=C(C(=NC1)I)OCC(=O)OCC | C9H9ClINO3
reactant | carbon monoxide | [C]=O | CO
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
reactant | triethylamine | C(C)N(CC)CC | C6H15N
solvent | ethanol | C(C)O | C2H6O
catalyst | bis(diphenylphosphino)ferrocene palladium(II)dichloride dichloromethane | 2.03 mmol, 1.66 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)[C-]1C=CC=C1.[C-]1(C=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.[Fe+2].ClCCl.[Pd](Cl)Cl
product | ethyl 5-chloro-3-(2-ethoxy-2-oxoethoxy)picolinate | 43.4 mmol, 12.5 g, 89.9% yield | ClC=1C=C(C(=NC1)C(=O)OCC)OCC(=O)OCC | C12H14ClNO5
